US07612114B2
4-{5-Methoxy-2-[2-(4-methoxyphenyl)ethyl]phenoxy}phenol
Synthesized from 5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenol and 4-fluorobenzaldehyde according to an analogous synthetic method to Preparation Example 189, 4-{5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenoxy}benzaldehyde (1.8 g) was used according to an analogous synthetic method to Preparation Example 190 to provide the title compound (603 mg).

reactant | 5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenol | COC=1C=CC(=C(C1)O)CCC1=CC=C(C=C1)OC | C16H18O3
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-{5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenoxy}benzaldehyde | 1.8 g | COC=1C=CC(=C(OC2=CC=C(C=O)C=C2)C1)CCC1=CC=C(C=C1)OC | C23H22O4
product | 4-{5-Methoxy-2-[2-(4-methoxyphenyl)ethyl]phenoxy}phenol | 603 mg | COC=1C=CC(=C(OC2=CC=C(C=C2)O)C1)CCC1=CC=C(C=C1)OC | C22H22O4
